US04025642
Similarly reaction of 5-acetamido-3-aminophenol hydrochloride with 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one as described above furnishes 3-[1-(5-acetamido-3-hydroxyphenylamino)ethylidene]-5-acetyl-4-hydroxy-2H-pyran-2,6(3H)-dione.

reactant | 5-acetamido-3-aminophenol hydrochloride | Cl.C(C)(=O)NC=1C=C(C=C(C1)O)N
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
product | 3-[1-(5-acetamido-3-hydroxyphenylamino)ethylidene]-5-acetyl-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)NC=1C=C(C=C(C1)NC(C)=C1C(OC(C(=C1O)C(C)=O)=O)=O)O | C17H16N2O7
